US04877779
2-Phenyl-1,3-dithiane.
Benzaldehyde (11.5 mL, 112 mmol and 1,3-propanedithiol (120 mL, 92.5 mmol) were stirred in methylene chloride (200 mL) at 0° C. and HCl(g) was bubbled into the solution followed by addition of zinc chloride (9 g). The mixture was stirred overnight after which it was poured onto 10% potassium hydroxide solution. The layers were separated and the organic extract was washed with 10% potassium hydroxide solution, water, brine and dried (MgSO4). Evaporation of solvent at reduced pressure afforded an oil which crystallized upon standing and was recrystallized from diethyl ehter to give 16.2 g (89%) of product. 1H NMR (CDCl3) δ: (m, 2H), 5.16 (s, 1H), 7.25-7.36 (m, 3H), 7.45-7.48 (m, 2H) ppm.

reactant | Benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 1,3-propanedithiol | 92.5 mmol, 120 mL | C(CCS)S | C3H8S2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 2-Phenyl-1,3-dithiane | 16.2 g, 89% | C1(=CC=CC=C1)C1SCCCS1 | C10H12S2
